US07807673B2
The title compound was prepared from N-{4-[2-(3-aminophenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinyl}-2-methyl-1,2,3,4-tetrahydro-7-isoquinolinamine and 2-thiopheneacetyl chloride using acylation conditions described in Example 1, Step F to generate the product in 89% yield. 1H NMR (400 MHz, DMSO-d6): δ 2.31 (s, 3H), 2.57 (t, 2H, J=5.7 Hz), 2.74 (t, 2H, J=5.6 Hz), 3.38 (s, 2H), 3.88 (s, 2H), 6.47 (d, 1H, J=5.3 Hz), 6.97 (m, 3H), 7.13 (t, 1H, J=6.8 Hz), 7.27 (d, 1H, J=7.5 Hz), 7.38-7.50 (m, 5H), 7.75 (d, 1H, J=8.1 Hz), 7.90 (s, 1H), 8.23 (d, 1H, J=5.3 Hz), 8.46 (d, 1H, J=8.6 Hz), 8.83 (d, 1H, J=7.0 Hz), 9.43 (s, 1H), 10.36 (s, 1H). ES-LC/MS m/z=572 [M+H]+.

reactant | N-{4-[2-(3-aminophenyl)pyrazolo[1,5-a]pyridin-3-yl]-2-pyrimidinyl}-2-methyl-1,2,3,4-tetrahydro-7-isoquinolinamine | NC=1C=C(C=CC1)C1=NN2C(C=CC=C2)=C1C1=NC(=NC=C1)NC1=CC=C2CCN(CC2=C1)C | C27H25N7
reactant | 2-thiopheneacetyl chloride | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
product | N-[3-(3-{2-[(2-Methyl-1,2,3,4-tetrahydro-7-isoquinolinyl)amino]-4-pyrimidinyl}pyrazolo[1,5-a]pyridin-2-yl)phenyl]-2-(2-thienyl)acetamide | 89% yield | CN1CC2=CC(=CC=C2CC1)NC1=NC=CC(=N1)C=1C(=NN2C1C=CC=C2)C=2C=C(C=CC2)NC(CC=2SC=CC2)=O | C33H29N7OS
